US04207234
Copper acetate (one hydrate, 199 mg) was added to an ethyl acetate solution (200 ml) containing 1-(1-carboxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (3.04 g) with stirring. To the resultant mixture, there was added lead tetraacetate (4.9 g) at ambient temperature in the course of 5 minutes, whereafter the mixture was refluxed under heating for half an hour with stirring. The insoluble materials were removed by filtration to give a filtrate, which was washed with water, an aqueous sodium chloride and an aqueous sodium bicarbonate and then washed with an aqueous sodium chloride twice in turn, whereafter dried over magnesium sulfate. The ethyl acetate was removed by distillation from the solution under reduced pressure to give oily 1-(1-acetoxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (2.7 g).

reactant | 1-(1-carboxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 3.04 g | C(=O)(O)C(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C16H20N2O4
reactant | lead tetraacetate | 4.9 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
catalyst | Copper acetate | 199 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(1-acetoxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 2.7 g | C(C)(=O)OC(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C17H22N2O4
